US04353823
Benzyloxycarbonyl-prolyl-arginine (I)
To a solution of 37 g (0.1 mol) of p-nitrophenyl ester of benzyloxycarbonylproline in 360 ml of dioxane there is added a solution of 16 g (0.09 mol) of arginine in 160 ml of water under vigorous stirring. Two hours thereafter the solvent is evaporated and the precipitate is dissolved in 100 ml of dimethylformamide. The solution is stirred at room temperature for 72 hours and poured into 1 liter of ethylacetate. The resulting residue is filtered-off, washed on the filter with ethylacetate and reprecipitated from a mixture ethanol-ethylacetate. The yield of product (I) is 35 g (96%); the product has the following properties: M.p. 190° C., [α]D20 -46.6°; (c 1.0; H2O); Rf =0.53 (A, "Silufol") 0.66 (B, "Eastman"); EHis =0.56 (pH=2.4).

reactant | benzyloxycarbonylproline | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | arginine | 0.09 mol, 16 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | dioxane | 360 ml | O1CCOCC1 | C4H8O2
solvent | water | 160 ml | O | H2O
product | Benzyloxycarbonyl-prolyl-arginine | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1 | C19H27N5O5
